US08791123B2
Step B: (R)-1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carbonyl)piperidine-4-carboxylic acid
(R)-ethyl 1-(5-(2-(2,5-di fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carbonyl)piperidine-4-carboxylate (49 mg, 0.10 mmol) was dissolved in 1:1 THF/MeOH (1.0 mL) and 1M LiOH (0.20 mL, 0.20 mmol) was added. The mixture was stirred at ambient temperature for 2 hours and the reaction mixture was concentrated. The residue was diluted in water and the mixture acidified with 2N HCl. The mixture was extracted with DCM and EtOAc. The combined organics were washed with brine, dried with MgSO4, filtered and concentrated. The residue was triturated with hexanes and the resulting white suspension was concentrated to afford the final product (43 mg, 92% yield) as a white solid. MS (apci) m/z=456.1 (M+H).

reactant | (R)-ethyl 1-(5-(2-(2,5-di fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carbonyl)piperidine-4-carboxylate | 0.10 mmol, 49 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)N2CCC(CC2)C(=O)OCC | C25H27F2N5O3
reactant | LiOH | 0.20 mmol, 1M, 0.20 mL | [Li+].[OH-]
solvent | THF MeOH | 1.0 mL | C1CCOC1.CO
product | (R)-1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carbonyl)piperidine-4-carboxylic acid | 43 mg, 92% yield | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)N2CCC(CC2)C(=O)O | C23H23F2N5O3
